US07468370B2
8-(3-Fluoro-phenyl)-[1,7]naphthyridin-6-ylamine—Compound D
To a stirred solution of 6-amino-8-bromo-1,7-naphthyridine (0.5 g) in a mixture of toluene (2.5 ml), DMF (4 ml) and aqueous K2CO3 (0.68 g in 2 ml water) is added bis(dibenzylideneacetone)palladium (51 mg), triphenylphosphine (47 mg) and 3-fluorphenylboronic acid (0.33 g). The mixture is stirred for 4 hours at 100° C. The mixture is diluted with ethyl acetate, then filtered through a Celite™ filter. The ethyl acetate solution is washed with 2 N NaOH and water, dried over magnesium sulphate, then concentrated to afford the title compound. MS: APCI 240.0 MH+.

reactant | 6-amino-8-bromo-1,7-naphthyridine | 0.5 g | NC=1C=C2C=CC=NC2=C(N1)Br | C8H6BrN3
reactant | K2CO3 | 2 ml, 0.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triphenylphosphine | 47 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-fluorphenylboronic acid | 0.33 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 51 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 8-(3-Fluoro-phenyl)-[1,7]naphthyridin-6-ylamine | FC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)N | C14H10FN3
